US07169926B1
To a solution of 3-nitro-pyridine-2,4-diol (1.0 g, 6.41 mmol) in DMF (10 mL) at 0° C., was added NaH (0.51 g, 12.82 mmol 60% in mineral oil). After stirring at 0° C. for 15 min, ethyl iodide (1.10 g, 7.05 mmol) was added and the reaction was stirred at 55° C. for 17 h. After cooling to room temperature, the mixture was poured into ice water, and then filtered to remove insoluble material. The filtrate was acidified with 1 N HCl, extracted with CH2Cl2, dried with MgSO4, and concentrated. The product was rinsed with EtOH to give 1-ethyl-4-hydroxy-3-nitro-1H-pyridin-2-one (0.63 g, 53% yield). 1H-NMR (DMSO): δ, 7.79 (d, 1H, J=7.6 Hz), 6.09 (d, 1H, J=7.6 Hz), 3.90 (q, 2H, J=7.2 Hz), 1.19 (t, 3H, J=7.2 Hz).

reactant | 3-nitro-pyridine-2,4-diol | 6.41 mmol, 1.0 g | [N+](=O)([O-])C=1C(=NC=CC1O)O | C5H4N2O4
reactant | NaH | 12.82 mmol, 0.51 g | [H-].[Na+]
reactant | ethyl iodide | 7.05 mmol, 1.10 g | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-4-hydroxy-3-nitro-1H-pyridin-2-one | 0.63 g, 53% yield | C(C)N1C(C(=C(C=C1)O)[N+](=O)[O-])=O | C7H8N2O4
